US06610641B2
L4: 1,4,7-tris(4-bromo-pyrazol-3-ylmethyl)-1,4,7-triazacyclononane was prepared by procedure B using TACN and 4-bromo-pyrazole-3-carboxaldehyde.

reactant | 1,4,7-triazacyclononane | N1CCNCCNCC1 | C6H15N3
reactant | 4-bromo-pyrazole-3-carboxaldehyde | BrC=1C(=NNC1)C=O | C4H3BrN2O
product | 1,4,7-tris(4-bromo-pyrazol-3-ylmethyl)-1,4,7-triazacyclononane | BrC=1C(=NNC1)CN1CCN(CCN(CC1)CC1=NNC=C1Br)CC1=NNC=C1Br | C18H24Br3N9
